US07163940B2
To a suspension of N-cyclopentylguanidine hydrochloride (68 mg, 0.42 mmol) in ethanol (1 mL) was added sodium ethoxide (138 μL, 3 M in ethanol, 0.41 mmol). A solution of 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-methyl-2-propen-1-one in ethanol (1 mL) was added and the reaction mixture was allowed to stir at room temperature for 16 hours. An additional aliquot of N-cyclopentylguanidine hydrochloride (68 mg, 0.42 mmol) and sodium ethoxide (138 μL, 3 M in ethanol, 0.41 mmol) in ethanol (1 ml) was added to reaction mixture and allowed to stir an additional 24 hours. Palladium on carbon (10%, 30 mg) was added to reaction mixture and allowed to stir at room temperature for 30 minutes under an atmosphere of air, at which point additional palladium on carbon (10%, 100 mg) was added. The reaction mixture was allowed to stir at room temperature 16 hours. The suspension was diluted with ethyl acetate and filtered through Celite. Concentration followed by flash chromatography (4:1 hexanes:ethyl acetate) provided 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-5-methyl-2-pyrimidinamine (57 mg, 43%) as a clear oil. Rf 0.24 (4:1 hexanes:ethyl acetate); 1H NMR (CDCl3) δ 8.14 (s, 1H), 7.64 (m, 2H), 7.57 (d, 1H), 7.17 (m, 1H), 7.08 (t, 2H), 7.00 (d, 1H), 5.09 (d, 1H), 4.26 (m, 1H), 2.03 (m, 2H), 1.82–1.45 (m, 9H); MS m/z 422 (M+1). To a solution of the product in ether was added 1 M hydrochloride in ether. The precipitated solid was isolated to give the corresponding hydrochloride salt.

reactant | N-cyclopentylguanidine hydrochloride | 0.42 mmol, 68 mg | Cl.C1(CCCC1)NC(=N)N
reactant | sodium ethoxide | 0.41 mmol, 3 M, 138 μL | [O-]CC.[Na+]
reactant | 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-methyl-2-propen-1-one | ClC1=CC=CC=2N1N=C(C2C(C(=C)C)=O)C2=CC=C(C=C2)F | C17H12ClFN2O
reactant | N-cyclopentylguanidine hydrochloride | 0.42 mmol, 68 mg | Cl.C1(CCCC1)NC(=N)N
reactant | sodium ethoxide | 0.41 mmol, 3 M, 138 μL | [O-]CC.[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 30 mg | [Pd] | Pd
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-5-methyl-2-pyrimidinamine | 57 mg, 43% | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2C)NC2CCCC2)C2=CC=C(C=C2)F | C23H21ClFN5
